US04510146
31 g of 4-methoxyquinaldine (prepared from 4-hydroxyquinaldine by the method of M. Maurin, A. Ch. 4 [11] (1935), 301 and 335) are taken up in 80 ml of chloroform at room temperature, and 42 g of 85% strength m-chloroperbenzoic acid are added a little at a time, with stirring. The mixture is heated at 40° C. for 2 hours and is then cooled to 20° C. and brought to pH 6-7 with about 9 g of NaOH in 50 ml of H2O. The organic phase is separated off, dried with Na2SO4, filtered and concentrated. 34 g of crude product remain, and are recrystallized from toluene with addition of a small amount of solid KOH. 12 g of pure 4-methoxyquinaldine-N-oxide are obtained. Melting point 131°-132° C.

reactant | 4-methoxyquinaldine | 31 g | COC1=CC(=NC2=CC=CC=C12)C | C11H11NO
reactant | 4-hydroxyquinaldine | OC1=CC(=NC2=CC=CC=C12)C | C10H9NO
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaOH | about 9 g | [OH-].[Na+]
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 50 ml | O | H2O
product | 4-methoxyquinaldine-N-oxide | 12 g | COC=1C=C([N+](=C2C=CC=CC12)[O-])C | C11H11NO2
